US07253286B2
6-Cyano-7-(2-methoxyethoxy)-4-(4-nitrophenoxy)quinoline
A mixture of 4-chloro-6-cyano-7-(2-methoxyethoxy)quinoline (3 g), 4-nitrophenol (3.17 g) and 2,6-lutidine (2.7 ml) was heated and stirred in an oil bath at 155° C. for 1.5 hours. After completion of the reaction, ethyl acetate was added, and the precipitated solid was filtered out. The solid was washed with 1N sodium hydroxide water and then with water and dried to obtain 1.8 g of the title compound.

reactant | 4-chloro-6-cyano-7-(2-methoxyethoxy)quinoline | 3 g | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCOC | C13H11ClN2O2
reactant | 4-nitrophenol | 3.17 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 2,6-lutidine | 2.7 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Cyano-7-(2-methoxyethoxy)-4-(4-nitrophenoxy)quinoline | 1.8 g | C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC=C(C=C1)[N+](=O)[O-] | C19H15N3O5
